US05821246
A mixture of methyl 4-chloropyridine-2-carboxylate (3.7 g), sodium metal (0.5 g) and methanol (100 ml) was stirred and heated to reflux for 8 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and water. The organic phase was dried (MgSO4) and evaporated to give methyl 4-methoxypyridine-2-carboxylate (3 g).

reactant | methyl 4-chloropyridine-2-carboxylate | 3.7 g | ClC1=CC(=NC=C1)C(=O)OC | C7H6ClNO2
reactant | sodium | 0.5 g | [Na] | Na
reactant | methanol | 100 ml | CO | CH4O
product | methyl 4-methoxypyridine-2-carboxylate | 3 g | COC1=CC(=NC=C1)C(=O)OC | C8H9NO3
